US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(1H-pyrrol-1-yl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.252 mmol) in dioxane (1.5 mL) was treated with 1-(4-bromophenyl)-1H-pyrrole (0.252 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (10 mg), and 2M aq potassium carbonate (0.756 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in a microwave (Biotage Initiator) at 150° C. for 15 min. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The resulting organic phase was treated with Si-Thiol (Silicycle, 20 mg), dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (35-65% acetonitrile/water+0.1% NH4OH). The resulting product was purified by silica gel chromatography (0-8% methanol/dichloromethane) to afford the title compound as an amorphous white solid (42%). MS(ES)+ m/e 454.1 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.252 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H31BN4O4
reactant | 1-(4-bromophenyl)-1H-pyrrole | 0.252 mmol | BrC1=CC=C(C=C1)N1C=CC=C1 | C10H8BrN
reactant | potassium carbonate | 0.756 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(1H-pyrrol-1-yl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 42% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC=C1 | C27H27N5O2
